US05173489
To a solution of 1,1-bis(4-pyridinylmethyl)-3-phenyl-1H-indene (5.8 g, 15.5 mmol) in 95% ethanol (100 ml), was added 5% palladium on carbon catalyst (1.45 g) and the mixture was shaken under hydrogen (50 psig) at room temperature for 2 h. The catalyst was removed by filtration, and the solvent removed by rotary evaporation. The oil was purified via column chromatography (silica gel, 10% methanol/dichloromethane) to give pure 4-((2,3-dihydro-3-phenyl-1-(4-pyridinylmethyl)-1H-inden-1-ylmethyl))pyridine. NMR (200 MHz, CDCl3) δ2.05 (dd, 1H); 2.38 (dd, 1H); 2.93 (dd, 2H); 3.15 (dd, 2H); 3.42 (m, 1H); 6.67 (dd, 4H); 7.00 (d, 2H); 7.10-7.34 (m, 7H); 8.36 (d, 2H, J=5Hz); 8.42 (d, 2H, J=5Hz). Mass Calcd. for C27H24N2 : 376.1937. Found: 376.1951.

reactant | 1,1-bis(4-pyridinylmethyl)-3-phenyl-1H-indene | 15.5 mmol, 5.8 g | N1=CC=C(C=C1)CC1(C=C(C2=CC=CC=C12)C1=CC=CC=C1)CC1=CC=NC=C1 | C27H22N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.45 g | [Pd] | Pd
product | 4-((2,3-dihydro-3-phenyl-1-(4-pyridinylmethyl)-1H-inden-1-ylmethyl))pyridine | C1(=CC=CC=C1)C1CC(C2=CC=CC=C12)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C27H24N2
